US07439395B2
3.00 g (17.75 mmol) of 1,3-dimethyl-2,2-dichloroimidazolidine and 2.63 g (17.77 mmol) of sodium dimethylphosphate are mixed with 20 ml of acetonitrile and 2 ml of water. The reaction mixture is stirred for 12 hours at room temperature, and the precipitate NaCl is subsequently filtered off. The solvent is distilled off, and the residue is dried for 6 hours under a reduced pressure of 7 Pa and at an oil-bath temperature of 70-80° C., giving 4.39 g of 1,3-dimethyl-2-chloroimidazolidinium dimethylphosphate, corresponding to a yield of 95.6%.

reactant | 1,3-dimethyl-2,2-dichloroimidazolidine | 17.75 mmol, 3.00 g | CN1C(N(CC1)C)(Cl)Cl | C5H10Cl2N2
reactant | sodium dimethylphosphate | 17.77 mmol, 2.63 g | COP(=O)(OC)[O-].[Na+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | 1,3-dimethyl-2-chloroimidazolidinium dimethylphosphate | 4.39 g, yield of 95.6% | COP(=O)(OC)[O-].C[NH+]1C(N(CC1)C)Cl | InChI=1S/C5H11ClN2.C2H7O4P/c1-7-3-4-8(2)5(7)6;1-5-7(3,4)6-2/h5H,3-4H2,1-2H3;1-2H3,(H,3,4)
